US07186734B2
A suspension of 5-butyl-6-methyl-2-thioxo-2,3-dihydro-1H-pyrimidin-4-one in 10% aqueous chloroacetic acid (100 mL) is stirred at reflux for 3 hours and then allowed to cool to room temperature. The suspension is cooled in an ice bath for a few minutes and then filtered. The solid is thoroughly washed with H2O and dried, yielding pure 5-butyl-6-methyl-1H-pyrimidine-2,4-dione as a white solid. 1H NMR (DMSO-d6, 300 MHz) δ 10.86 (br s, 1H), 10.57 (br s, 1H), 2.17 (m, 2H), 2.01 (s, 3H), 1.25 (m, 4H), 0.85 (t, J=6.9 Hz, 3H) ppm. MS: m/z 183 [M+1 ].

reactant | 5-butyl-6-methyl-2-thioxo-2,3-dihydro-1H-pyrimidin-4-one | C(CCC)C=1C(NC(NC1C)=S)=O | C9H14N2OS
reactant | chloroacetic acid | 100 mL | ClCC(=O)O | C2H3ClO2
product | 5-butyl-6-methyl-1H-pyrimidine-2,4-dione | C(CCC)C=1C(NC(NC1C)=O)=O | C9H14N2O2
